US05294612
To a mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.0 g, 9.0 mmol), DMF (30 ml), and 3-ethoxy-4-cyanopyridine (1.47 g, 9.9 mmol) under argon was added sodium hydride (0.43 g, 10.8 mmol). The mixture was stirred at room temperature for 24 hours and the solvent was removed in vacuo. The residue was treated with water, acidified with acetic acid and a precipitate formed which was collected by filtration. The residue was purified by column chromatography on silica eluting with ether (100%) to acetone (100%) to afford 1.4 g (44%) of 1-cyclopentyl-3-ethyl-6-(3-ethoxy-4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-amine.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 9.0 mmol, 2.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 3-ethoxy-4-cyanopyridine | 9.9 mmol, 1.47 g | C(C)OC=1C=NC=CC1C#N | C8H8N2O
reactant | sodium hydride | 10.8 mmol, 0.43 g | [H-].[Na+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-cyclopentyl-3-ethyl-6-(3-ethoxy-4-pyridyl)pyrazolo[3,4-d]pyrimidin-4-amine | 1.4 g, 44% | C1(CCCC1)N1N=C(C=2C1=NC(=NC2N)C2=C(C=NC=C2)OCC)CC | C19H24N6O
